US06080754
1-Ethyl-3-hydroxymethyl-2-(4-methoxyphenyl)pyrrolo[2,1,5-cd]indolizine (0.40 g, 1.31 mmol) was dissolved in 15 ml of dry tetrahydrofuran under a nitrogen atmosphere. Sodium hydrode (50% in oil) (0.06 g, 1.3 mmol) was added, and stirring was continued for 1/2 hour. Dimethyl sulfate (0.283 g, 2.25 mmol) was added, and the mixture was stirred at room temperature for 1day. 15 ml of water was added dropwise, and ther eaction mixture was diluted with 25 ml of diethyl ether. The organic material was extracted into diethyl ether, and the combined organic layers was washed with brine and dried over magnesium sulfate. The solvent was evaporated to afford 0.3 g (70%) of 1-ethyl-3-methoxymethyl-2-(4-methyoxyphenyl)pyrrolo[2,1,5-cd]indolizine. HPLC (Eluent: 65% CH3CN isocratic, 35% buffer H3PO4 pH=3): Rt=23.75 min (94% purity). 1H-NMR (CDCl3 /CD3OD, 200 MHz) δ: 1.42 (t, 3H); 3.16 (q, 2H); 3.41 (s, 3H); 3.88 (s, 3H); 4.78 (s, 2H); 7.07 (d, 2H); 7.21 (s, 1H); 7.56-7.69 (m, 3H); 7.81-7.91 (m, 2H).

reactant | 1-Ethyl-3-hydroxymethyl-2-(4-methoxyphenyl)pyrrolo[2,1,5-cd]indolizine | 1.31 mmol, 0.40 g | C(C)C1=C(C=2N3C(C=CC=C13)=CC2CO)C2=CC=C(C=C2)OC | C20H19NO2
reactant | Sodium | [Na] | Na
reactant | Dimethyl sulfate | 2.25 mmol, 0.283 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | 15 ml | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | 1-ethyl-3-methoxymethyl-2-(4-methyoxyphenyl)pyrrolo[2,1,5-cd]indolizine | 0.3 g, 70% | C(C)C1=C(C=2N3C(C=CC=C13)=CC2COC)C2=CC=C(C=C2)OC | C21H21NO2
